US04294960
10% Palladium carbon (0.35 g.) was added to a solution of 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer:0.7 g.) in methanol (70 ml.), and the mixture was subjected to catalytic reduction at room temperature under atmospheric pressure for 1.5 hours. The resultant mixture was filtered, and the filtrate was concentrated under reduced pressure. To the residue was added an aqueous solution of sodium bicarbonate and the insoluble substance was filtered out. The filtrate was washed with ethyl acetate and methylene chloride in turn, bubbled with nitrogen gas and then lyophilized. The residue was dissolved in water (30 ml.) and adjusted to pH 3.8 with 10% hydrochloric acid. The solution was subjected to column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trade mark; manufactured by Mitsubishi Chemical Industries Ltd., 20 ml.), washed with water, and then eluted with 40% aqueous acetone. After acetone was removed from the eluate under reduced pressure, the residue was lyophilized to give 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer:0.25 g.).

reactant | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylate | 0.7 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C19H16N6O7S2
solvent | methanol | 70 ml | CO | CH4O
catalyst | Palladium carbon | 0.35 g | [C].[Pd]
product | 7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.25 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NO | C12H11N5O5S2
